US06392059B1
To 460.5 mg(1.81 mmol) of (1S,3S,3aR,4R,4aS,8aR,9aS)-4-hydroxymethyl-1-methoxy-3-methyl-dodecahydronaphtho[2,3-c]furan in 20 ml of ethylene chloride solution were added 20.3 mg(0.1 equivalent) of 4-(dimethylamino)pyridine and 1.26 ml(5 equivalents) of triethylamine, and, after 420.4 μl (3 equivalents) of methanesulfonyl chloride were added dropwise under cooling with ice and under an atmosphere of argon, the mixture was stirred for about 3 hours while raising temperature naturally. To the reaction mixture were added 20 ml of water to wash, and extraction with methylene chloride(3 ml×3) was performed from the aqueous layer. Combined organic layers were dried over anhydrous magnesium sulfate, filtered and solvent was distilled off. The residue was purified by means of silica gel column chromatography(hexane:ethyl acetate=2:1) to obtain 645.7 mg of O-mesyl form. To 304.7 mg(1.5 equivalents) of potassium t-butoxide in 10 ml of dehydrated dimethyl sulfoxide solution placed in a 25 ml flask were added dropwise 278.8 μl (1.5 equivalents) of thiophenol at room temperature under stirring, and the mixture was stirred for 10 minutes. This was added to previous 645.7 mg of O-mesyl form in 10 ml of dehydrated dimethyl sulfoxide solution, and the mixture was stirred for 3 hours at room temperature. The reaction mixture was poured into 20 ml of cold dilute aqueous solution of sodium hydrogencarbonate, which was extracted with ether(10 ml×3). After washing the organic layer with saturated brine(10 ml×1), it was dried over anhydrous magnesium sulfate, filtered and then solvent was distilled off to obtain phenyl thioether. This was dissolved into 50 ml of methylene chloride and 976.3 mg(2.5 equivalents) of m-chloroperbenzoic acid(80%) and 760.4 mg(5 equivalents) of sodium hydrogencarbonate were added under stirring and cooling with ice. After stirring for 2 hours at room temperature, the reaction mixture was filtered through celite and the residue was washed with methylene chloride(20 ml). Solvent was distilled off under reduced pressure and the residue was diluted with 50 ml of ether, which was washed with saturated aqueous solution of sodium hydrogencarbonate(10 ml×3) and with saturated brine(10 ml×1). The organic layer was dried over anhydrous magnesium sulfate, filtered and solvent was distilled off. The residue was purified by means of silica gel column chromatography(hexane:ethyl acetate=2:1, then 2:1) to obtain 563.9 mg of (1S,3S,3aS,4R,4aS,8aR,9aS)-1-methoxy-3-methyl-4-(phenylsulfonyl)methyl-dodecahydronaphtho[2,3-c]furan (yield after 3 processes 82%).

reactant | (1S,3S,3aR,4R,4aS,8aR,9aS)-4-hydroxymethyl-1-methoxy-3-methyl-dodecahydronaphtho[2,3-c]furan | 1.81 mmol, 460.5 mg | OC[C@@H]1[C@H]2CCCC[C@@H]2C[C@@H]2[C@H](O[C@H]([C@@H]21)C)OC | C15H26O3
reactant | triethylamine | 1.26 ml, 5 equivalents | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 420.4 μl, 3 equivalents | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium t-butoxide | 304.7 mg, 1.5 equivalents | CC(C)([O-])C.[K+]
reactant | thiophenol | 278.8 μl, 1.5 equivalents | C1(=CC=CC=C1)S | C6H6S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethylene chloride | 20 ml | C(CCl)Cl | C2H4Cl2
catalyst | 4-(dimethylamino)pyridine | 20.3 mg, 0.1 equivalent | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | water | 20 ml | O | H2O
product | phenyl thioether | C1(=CC=CC=C1)SC1=CC=CC=C1 | C12H10S
